US09301951B2
tert-butyl 1-((S)-1-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)pyrrolidin-2-yl)-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate
This compound was prepared according to the procedure described for the synthesis of tert-butyl 2-methyl-1-((S)-1-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)pyrrolidin-2-yl)-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate Example 190, using tert-butyl 3-(2-(2-(2-aminoethoxy)ethoxy)ethoxy)propanoate in place of tert-butyl 5,8,11-trioxa-2-azatetradecan-14-oate. MS (ES, m/z): 988.34 [M+H]+.

reactant | tert-butyl 2-methyl-1-((S)-1-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)pyrrolidin-2-yl)-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate | CN(C(=O)[C@H]1N(CCC1)CCN(C(C1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)=O)=O)C)CCOCCOCCOCCC(=O)OC(C)(C)C | C57H75N7O9
reactant | tert-butyl 3-(2-(2-(2-aminoethoxy)ethoxy)ethoxy)propanoate | NCCOCCOCCOCCC(=O)OC(C)(C)C | C13H27NO5
product | tert-butyl 1-((S)-1-(2-(N-methyl-3-((4-(piperidin-1-yl)-2-(4-(((S)-1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzamido)ethyl)pyrrolidin-2-yl)-1-oxo-5,8,11-trioxa-2-azatetradecan-14-oate | CN(C(C1=CC(=CC=C1)C(NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)=O)=O)CCN1[C@@H](CCC1)C(NCCOCCOCCOCCC(=O)OC(C)(C)C)=O | C56H73N7O9
